Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
RUE Weakness 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ year old man with a past medical history of 
HTN,
HLD, prior R frontal cortical stroke (___) and RA who presents
today with right hand weakness.

He says that he went to bed last night in his usual state of
health around 11:30pm. When he woke up around 7:30am, he noticed
that his right hand was both clumsy and weak. He notes having
difficulty shaving, and writing (forming the letters). He says
that over the day this has gotten slightly better, although the
hand is still weak. He thinks his arm feels numb but he isn't
sure. He had no speech difficulties, no trouble reading, no
facial involvement, no leg involvement.

In ___ he had similar symptoms, which lasted ___ hours. He is
followed by Dr. ___ at ___. After the transient 
right
arm weakness, he had an MRI showing "1. There are moderate
chronic microvascular changes in the cerebral white matter  2.
There is a tiny chronic cortical infarct in the right frontal
lobe probably in the distal right ACA territory." MRA was 
normal.
TTE showed mild AR and "focal thickening at the tip of the
anterior mitral valve leaflet. The atrial septum is aneurysmal."
Holter monitor showed 2 runs of SVT to ~150.

He has been on aspirin, in addition to atorvastatin since then.
However, he only takes the aspirin a few times a week (~every
other day) as he has recently been getting nose bleeds.

On neuro ROS, the pt denies headache, loss of vision, blurred
vision, diplopia, dysarthria, dysphagia, lightheadedness,
vertigo, tinnitus or hearing difficulty. Denies difficulties
producing or comprehending speech. No bowel or bladder
incontinence or retention. Denies difficulty with gait.

On general review of systems, the pt denies recent fever or
chills.  No night sweats or recent weight loss or gain. Denies
cough, shortness of breath.  Denies chest pain or tightness,
palpitations.  Denies nausea, vomiting, diarrhea, constipation 
or
abdominal pain.  No recent change in bowel or bladder habits.  
No
dysuria.  Denies arthralgias or myalgias. Denies rash.

 
Past Medical History:
- HTN
- HLD
- R frontal infarct
- BPH
- Cataracts
- Benign thyroid nodules
 
Social History:
___
Family History:
NC
 
Physical Exam:
ADMISSION EXAM: 
Physical Exam:
Vitals: 98.9 62 134/85 18 100% RA 
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: Lungs CTA bilaterally without R/R/W
Cardiac: RRR
Abdomen: soft
Extremities: No edema. well perfused.
Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. No paraphasic errors. Naming
intact to both high and low frequency objects.  Reads without
difficulty. Speech was not dysarthric. Able to follow both
midline and appendicular commands. Good knowledge of current
events. No apraxia or neglect.

-Cranial Nerves:
I: Olfaction not tested.
II: PERRL 3 to 2mm and brisk. VFF to confrontation.
III, IV, VI: EOMI without nystagmus. Normal saccades.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally. No adventitious movements, such as tremor, noted. 
No
asterixis noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5   5
R  5    ___   ___  5   5    5  5     5     5   5

-Sensory: No deficits to light touch, pinprick, cold sensation,
vibratory sense, proprioception throughout. No extinction to 
DSS.

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   1
R  2  2    2    2   1
Plantar response was flexor bilaterally.

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally.

-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  Able to walk in tandem without difficulty. Romberg
absent.
Discharge Exam: 
MS: Awake, Alert, Speech Fluent. Repitition intact. Follows 
Complex Commands. Naming intact to high/low frequency
CN: EOMI, VFFFC. Pupils R< L by 0.5 mm, but brisk. Face 
symmetric
Motor: No pronator drift. 
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___ 
L  5    ___   5  4+  ___    5  5     5     5   
R  5    ___   ___  5   5    5  5     5     5   
R arm external rotation
DTR: ___ are present and symmetric bilaterally. 
Sensation: No sensory deficit. Graphesthesia impaired on R hand. 
proprioception intact. 

 
Pertinent Results:
___ 03:23PM BLOOD WBC-4.0 RBC-4.74 Hgb-14.2 Hct-43.0 MCV-91 
MCH-30.0 MCHC-33.0 RDW-13.0 RDWSD-42.8 Plt ___
___ 06:35AM BLOOD WBC-3.9* RBC-4.61 Hgb-13.7 Hct-41.9 
MCV-91 MCH-29.7 MCHC-32.7 RDW-13.1 RDWSD-43.1 Plt ___
___ 03:23PM BLOOD Neuts-51.5 ___ Monos-8.6 Eos-1.3 
Baso-0.5 Im ___ AbsNeut-2.05 AbsLymp-1.50 AbsMono-0.34 
AbsEos-0.05 AbsBaso-0.02
___ 03:23PM BLOOD ___ PTT-32.5 ___
___ 03:23PM BLOOD Plt ___
___ 03:23PM BLOOD Glucose-94 UreaN-9 Creat-0.9 Na-141 K-3.7 
Cl-105 HCO3-29 AnGap-11
___ 06:35AM BLOOD Glucose-82 UreaN-9 Creat-0.9 Na-143 K-3.8 
Cl-107 HCO3-28 AnGap-12
___ 06:35AM BLOOD ALT-22 AST-24 LD(LDH)-133 CK(CPK)-147 
AlkPhos-61 TotBili-1.0
___ 03:23PM BLOOD cTropnT-<0.01
___ 06:35AM BLOOD CK-MB-3 cTropnT-<0.01
___ 06:35AM BLOOD Albumin-3.7 Calcium-9.4 Phos-3.9 Mg-2.2 
Cholest-127
___ 06:35AM BLOOD %HbA1c-6.0* eAG-126*
___ 06:35AM BLOOD Triglyc-63 HDL-59 CHOL/HD-2.2 LDLcalc-55
___ 06:35AM BLOOD TSH-2.6
___ 05:53PM URINE Color-Yellow Appear-Clear Sp ___
___ 05:53PM URINE Blood-NEG Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.5 Leuks-NEG
___ 05:53PM URINE RBC-4* WBC-<1 Bacteri-NONE Yeast-NONE 
Epi-0
___ 05:53PM URINE AmorphX-RARE
___ 05:53PM URINE Mucous-RARE
 
Brief Hospital Course:
He was admitted for a RUE weakness, concerning for a stroke. 
There was no stroke seen on imaging to explain the RUE weakness, 
but this MRI did reveal a stroke in an unrelated area of the 
brain, with etiology is likely embolic. He has had mixed 
compliance with aspirin as an outpatient, secondary to 
nosebleeds. He was prescribed saline sprays to keep his nose 
moist and instructed to take aspirin 81 mg daily. A1c and LDL 
were pending on day of discharge. He was also noted to have 
cervical spondylosis so he was prescribed a soft collar and 
outpatient ___. Cervical spondylosis is another possibility for 
RUE weakness. 

Transitional Issues: 
- Needs outpatient w/u for 30 day rhythm monitoring, TTE
- Please f/u pending lipids and A1c
- Will continue atorvastatin at current dose (last LDL was 60; 
may adjust dose pending above LDL. It was not available on day 
of discharge, so should be followed up and adjusted as an 
outpatient).
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 325 mg PO EVERY OTHER DAY  
2. Atorvastatin 40 mg PO QPM 
3. Amlodipine 5 mg PO DAILY 
4. Lisinopril 40 mg PO DAILY 
5. etanercept 50 mg/mL (0.98 mL) subcutaneous 1X/WEEK 
6. Tamsulosin 0.4 mg PO QHS 
7. Finasteride 5 mg PO DAILY 
8. urea 40 % topical BID:PRN itchiness 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
RX *aspirin [Aspir-81] 81 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0
2. Atorvastatin 40 mg PO QPM 
3. Finasteride 5 mg PO DAILY 
4. Tamsulosin 0.4 mg PO QHS 
5. Amlodipine 5 mg PO DAILY 
6. etanercept 50 mg/mL (0.98 mL) subcutaneous 1X/WEEK 
7. Lisinopril 40 mg PO DAILY 
8. urea 40 % topical BID:PRN itchiness 
9. Outpatient Physical Therapy
ICD 9: ___ Cervical Sponydlosis with Radiculopathy 
Assess and Treat
Provider: ___

10. Soft Collar 
ICD 9: ___ Cervical Sponydlosis with Radiculopathy 
Soft Collar 
Disp 1 
Provider: ___

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Cervical spondylosis
Stroke

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the hospital because of right hand weakness 
which was either due to a stroke too small to see on the MRI or 
to nerve root compression as the nerves exit your spinal column 
(this is frequently caused by arthritic degeneration). 

However, we did find a very small stroke in an unrelated area of 
your brain which did not give you any deficits. This does 
underscore the importance of being on aspirin to reduce your 
risk of recurrent stroke as well as performing a complete 
work-up to identify any factors that might modify your risk of 
recurrent stroke. This includes cholesterol, blood sugar, an 
echocardiogram of your heart, and heart rhythm monitoring for 30 
days. You can have this done as an outpatient with your 
neurologist, Dr. ___. 

Your medications have changed as follows: 
1) TAKE aspirin 81 mg every day  

Please follow up with neurology and your primary care provider. 

Sincerely, 
YOUR ___ NEUROLOGY TEAM 
 
Followup Instructions:
___